US07456218B2
2-(4-bromo-3-methylphenoxy)tetrahydro-2H-pyran
A solution of 4-bromo-3-methylphenol (4.72 g, 25.2 mmol), 3,4-dihydro-2H-pyran (3.18 g, 37.8 mmol) and pyridinium p-toluenesulfonate (0.628 g, 2.50 mmol) in dichloromethane (100 mL) was stirred at room temperature for 24 hrs. The reaction mixture was washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (7.11 g, including unreacted 3,4-dihydro-2H-pyran) as a yellow oil.

reactant | 4-bromo-3-methylphenol | 25.2 mmol, 4.72 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 3,4-dihydro-2H-pyran | 37.8 mmol, 3.18 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | pyridinium p-toluenesulfonate | 2.50 mmol, 0.628 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 2-(4-bromo-3-methylphenoxy)tetrahydro-2H-pyran | 7.11 g | BrC1=C(C=C(OC2OCCCC2)C=C1)C | C12H15BrO2
